US09119868B2
Step 4: (4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2,6-difluorophenyl)boronic acid
A solution of 6-(N-(4-bromo-3,5-difluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (0.093 g, 0.157 mmol), potassium acetate (0.062 g, 0.627 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.013 g, 0.016 mmol), bis(pinacolato)diboron (0.080 g, 0.31 mmol) in 1,4-Dioxane (1.6 ml) was degassed, purged with nitrogen and heated at 90° C. for 4 h. The reaction mixture was diluted with EtOAc and water, filtered through celite, and evaporated. The brown residue was dissolved in 5 mL THF, and 2.5 mL 1M HCl. NaIO4 (0.27 g, 1.25 mmol) was added and the suspension was stirred for 2.5 h and diluted with EtOAc and water. The organic layer was washed with water, brine, dried (Na2SO4), filtered, evaporated and purified by reverse phase chromatography (5-100% CH3CN/H2O (0.1% formic acid)) to afford the title compound (0.017 g, 19%) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.91-7.98 (m, 2H), 7.79 (s, 1H), 7.34 (s, 1H), 7.20-7.29 (m, 2H), 6.82-6.92 (m, 2H), 3.38 (s, 3H), 2.95 (s, 3H), 2.01-2.11 (m, 1H), 0.70-1.07 (m, 3H), 0.54 (br. s., 1H). LCMS (m/z, ES+)=559.3 (M+H+).

reactant | 6-(N-(4-bromo-3,5-difluorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.157 mmol, 0.093 g | BrC1=C(C=C(C=C1F)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C26H20BrF3N2O4S
reactant | potassium acetate | 0.627 mmol, 0.062 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.31 mmol, 0.080 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-Dioxane | 1.6 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.016 mmol, 0.013 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)-2,6-difluorophenyl)boronic acid | 0.017 g, 19% | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C1=CC(=C(C(=C1)F)B(O)O)F | C26H22BF3N2O6S
